13
R0102 1 2 20000
R0304 3 4 1E+3
R0506 5 6 1E+3
R0708 7 8 1E+3
R0907 9 7 1E+3
R0603 6 3 5E+3
R0903 9 3 1E+3
C0603 6 3 1.59235668789809E-7
C0805 8 5 1.59235668789809E-7
Q0202 2 2 10 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1102 11 2 10 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q0602 6 2 10 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+9
Q1203 12 3 11 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1300 13 0 11 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1212 12 12 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1312 13 12 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q0613 6 13 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
O0800 8 0 5 0
O0900 9 0 7 0
V0010 0 10 DC 10
V0100 1 0 DC 10
V0400 4 0 PULSE -1 1 0 0 0 1E-2 2E-2 2
.TRAN 2E-2 2E-5 TETA 0.5 1
