13
R0102 1 2 1E+9
R0301 3 1 1E+9
R0405 4 5 20000
R0607 6 7 1E+3
R0809 8 9 1E+3
R1011 10 11 1E+3
R1210 12 10 1E+3
R0906 9 6 5E+3
R1206 12 6 1E+3
C0906 9 6 1.59235668789809E-7
C1108 11 8 1.59235668789809E-7
Q0505 5 5 13 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0105 1 5 13 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0905 9 5 13 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+30
Q0206 2 6 1 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0300 3 0 1 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0202 2 2 4 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0302 3 2 4 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0903 9 3 4 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
O1100 11 0 8 0
O1200 12 0 10 0
V0013 0 13 DC 10
V0400 4 0 DC 10
V0700 7 0 PULSE -1 1 0 0 0 1E-2 2E-2 2
.TRAN 2E-2 2E-5 TETA 0.5 1
